US07713994B2
2-(1-Methoxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(1-Hydroxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 4.3 mmol) in N,N-dimethylformamide (15 mL) is cooled to 0° C., MeI (1 mL) is added followed by NaH (380 mg, 60% suspension in mineral oil, 9.5 mmol). The resulting mixture is allowed to stir at room temperature for 2 hours until TLC reported no remaining starting material. The reaction is quenched with ice and ether is added. N,N-dimethylformamide is washed away with H2O and the ether layer is dried and concentrated to afford the crude product used directly in the next step.

reactant | 2-(1-Hydroxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.3 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(C)O | C11H21NO3
reactant | MeI | 1 mL | CI | CH3I
reactant | NaH | 9.5 mmol, 380 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-(1-Methoxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(C)OC | C12H23NO3
